* source SIMULACAO01
D_D1         N14395 N14403 D1N4003 
R_R1         0 N14403  42k TC=0,0 
V_V1         N14395 0  
+SIN 0 100V 60 0 0 0
C_C1         0 N14403  15.874u  TC=0,0 
